US04657929
(a) N-[2-[3-(Acetylamino)-4-methoxyphenyl]ethyl]-2,2,2-trifluoroacetamide
N-[2-(3-Amino-4-methoxyphenyl)ethyl]-2,2,2-trifluoro acetamide (5.24 g., 0.02 moles) in acetic anhydride (20 ml) was boiled at reflux for 2 hr. The anhydride was removed under reduced pressure and the syrupy residue added to water. The grey solid was collected and recrystallised from toluene using charcoal to give the sub-title compound as cream crystals (4.0 g) mp 105°-106°.

reactant | N-[2-(3-Amino-4-methoxyphenyl)ethyl]-2,2,2-trifluoro acetamide | 0.02 moles, 5.24 g | NC=1C=C(C=CC1OC)CCNC(C(F)(F)F)=O | C11H13F3N2O2
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-[2-[3-(Acetylamino)-4-methoxyphenyl]ethyl]-2,2,2-trifluoroacetamide | 4.0 g | C(C)(=O)NC=1C=C(C=CC1OC)CCNC(C(F)(F)F)=O | C13H15F3N2O3
